Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Tylenol / Endocet / shellfish derived / hazzelnut / cherry 
flavor / Indocin / mango / strawberry / oxycodone / soy / 
clonazepam / Penicillins / tramadol / nuts
 
Attending: ___
 
___ Complaint:
right knee pain
 
Major Surgical or Invasive Procedure:
___: right revision total knee arthroplasty by ___. 
___, MD

 
History of Present Illness:
___ presenting for revision of right total knee arthroplasty 
that has undergone aseptic loosening and was complicated by a 
tibial plateau fracture.
 
Past Medical History:
-HTN
-Arthritis
-Gait abnormality/hx of falls

PSH: C-section x1, bilateral TKR ___ years ago, R shoulder
surgery, cataracts
 
Social History:
___
Family History:
Father died of ___, mother died at ___ of unknown causes. 
Brother had tetanus as a child. Grandmother had unknown cancer. 
Brother had ulcer. 
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with staples  
* Scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm
 
Pertinent Results:
___ 05:36AM BLOOD WBC-8.4 RBC-2.86* Hgb-8.8* Hct-25.9* 
MCV-91 MCH-30.8 MCHC-34.0 RDW-14.8 RDWSD-49.2* Plt ___
___ 10:21PM BLOOD WBC-10.5* RBC-3.28*# Hgb-9.9*# Hct-29.4*# 
MCV-90 MCH-30.2 MCHC-33.7 RDW-14.6 RDWSD-47.7* Plt ___
___ 06:40AM BLOOD WBC-9.0 RBC-2.42* Hgb-7.4* Hct-22.3* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-15.1 RDWSD-51.0* Plt ___
___ 06:40AM BLOOD WBC-11.7* RBC-2.56* Hgb-7.8* Hct-23.5* 
MCV-92 MCH-30.5 MCHC-33.2 RDW-15.0 RDWSD-50.6* Plt ___
___ 05:00PM BLOOD WBC-13.0* RBC-2.83* Hgb-8.5* Hct-25.8* 
MCV-91 MCH-30.0 MCHC-32.9 RDW-15.1 RDWSD-50.9* Plt ___
___ 07:00AM BLOOD WBC-12.7* RBC-2.66* Hgb-8.2* Hct-24.2* 
MCV-91 MCH-30.8 MCHC-33.9 RDW-15.2 RDWSD-50.5* Plt ___
___ 09:25PM BLOOD WBC-12.8* RBC-2.80* Hgb-8.5* Hct-25.5* 
MCV-91 MCH-30.4 MCHC-33.3 RDW-14.9 RDWSD-50.0* Plt ___
___ 06:40AM BLOOD WBC-12.6* RBC-3.13* Hgb-9.5* Hct-28.8* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-14.9 RDWSD-49.9* Plt ___
___ 05:36AM BLOOD Plt ___
___ 10:21PM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 05:00PM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 09:25PM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 05:36AM BLOOD Creat-1.3*
___ 10:21PM BLOOD Creat-1.3*
___ 06:40AM BLOOD Creat-1.7*
___ 06:40AM BLOOD UreaN-31* Creat-1.2*
___ 07:00AM BLOOD Creat-1.4*
___ 06:40AM BLOOD Glucose-118* UreaN-41* Creat-1.3* Na-139 
K-4.9 Cl-99 HCO3-26 AnGap-14
___ 06:40AM BLOOD Calcium-8.5 Phos-4.2 Mg-1.8
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. 
Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
On POD #1, patient was given 500ml IV fluid bolus for 
hypotension, which she responded to appropriately. Patient was 
noted to have some post-op delirium and dilaudid was decreased 
in dosage from ___ to 0.5-2mg every 4 hours as needed. 
Oxycodone and tramadol was avoided due to reported allergy. 
Morphine was avoided due to slightly elevated creatinine of 1.4. 
Overnight, patient was noted to have increased delirium with 
temp of 100.2 and urinalysis, repeat CBC was completed. UA was 
negative, hematocrit was 25.5 and WBC 12.8.

On POD #2, hematocrit was 24.2. and WBC 12.7. Patient was 
triggered for change in mental status in the afternoon and Tmax 
of 102.0. Patient was noted to have increased delirium with new 
oxygen requirement (88-90% on room air) and slightly tachycardic 
with HR in the low 100s. A fever work-up was completed, 
including urinalysis/cultures, blood cultures and chest x-ray. 
UA was borderline, showing moderate leukocytes, WBC 12, negative 
nitrates/epi. Chest X-ray showed pacification of the right and 
left lungs, with slight blurring of the pulmonary vessels 
represent atelectasis, however cannot exclude pneumonia. Patient 
was not given Tylenol due to reported allergy and was not given 
any other alternative PO anti-pyretic medication due to 
confusion at the time/inability to swallow pills. Cool pack/ice 
was given to the patient and fever resolved on its own. Patient 
remained afebrile overnight. Gabapentin was discontinued and no 
further narcotic medications were given. The Medicine team was 
consulted for co-management of care due to complex past medical 
history and recommended empiric treatment with Levaquin if cough 
develops or consideration of further testing to rule out PE if 
patient remained tachycardic or hypoxic.

On POD #3, hematocrit was 23.5, WBC 11.7 (downtrending) and 
creatinine improved to 1.2. Patient was alert and oriented to 
self, DOB, place. Patient reported right calf pain to palpation 
and a lower extremity ultrasound was obtained, which results 
were negative for DVT.

On POD #4, hematocrit was 22.3 and patient was transfused 1 unit 
packed red blood counts, which she tolerated well. 
Post-transfusion hematocrit was 29.4.

On POD #5, her hematocrit was stable at 25.9 and her creatinine 
was 1.3.  She was discharged to rehab with repeat lab follow-up 
(hematocrit and creatinine) within 2 days of discharge.  Her 
Lasix and Losartan continue to be held until creatinine 
stabilizes.  

Urine cultures showed mixed bacterial flora consistent with skin 
contamination, no treatment indicated. Blood cultures were 
pending at the time of discharge and patient will be contacted 
if further treatment is indicated.

Otherwise, the patient received Aspirin 325 mg twice daily for 
DVT prophylaxis starting on the morning of POD#1.  The surgical 
dressing will remain on until ___. The patient was seen daily 
by physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact and the dressing was intact. 

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. 
 
Ms. ___ is discharged to rehab in stable condition.

 
Medications on Admission:
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
2. Vitamin D ___ UNIT PO TWICE PER MONTH 
3. Furosemide 50 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Mirtazapine 15 mg PO QHS 
7. Omeprazole 20 mg PO DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Calcitrate (calcium citrate) 200 mg (950 mg) oral Q24H 
11. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Codeine Sulfate 15 mg PO Q6H:PRN moderate pain 
2.  Docusate Sodium 100 mg PO DAILY 
3.  Senna 8.6 mg PO BID 
4.  Aspirin 325 mg PO BID 
Resume ASA 81 after 4 week course of ASA 325.  Continue 
Omeprazole while on Aspirin 325 (x 4 weeks). 
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Calcitrate (calcium citrate) 200 mg (950 mg) oral Q24H  
7.  Cetirizine 10 mg PO DAILY  
8.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Mirtazapine 15 mg PO QHS  
11.  Omeprazole 20 mg PO DAILY 
Continue Omeprazole daily while on ASA 325 mg twice daily (x 4 
weeks).  
12.  Vitamin D ___ UNIT PO TWICE PER MONTH  
13. HELD- Furosemide 50 mg PO DAILY  This medication was held. 
Do not restart Furosemide until creatinine has stabilized.
14. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until creatinine has 
stabilized.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right knee aseptic loosening

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc) until cleared by 
your physician.
 
8. ANTICOAGULATION: Please continue your Aspirin 325 mg twice 
daily with food for four (4) weeks to help prevent deep vein 
thrombosis (blood clots).  Continue Omeprazole home dose daily 
while on Aspirin to prevent GI upset.  If you were taking 
Aspirin prior to your surgery, take it at 325 mg twice daily 
until the end of the 4 weeks, then you can go back to your 
normal dosing.
 
9. WOUND CARE: Please remove Aquacel dressing on ___. It is 
okay to shower after surgery after 5 days but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
after aqaucel is removed each day if there is drainage, 
otherwise leave it open to air. Check wound regularly for signs 
of infection such as redness or thick yellow drainage.  Staples 
will be removed by your doctor at follow-up appointment 
approximately 3 weeks after surgery.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, and wound checks.
 
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize with assistive devices (___) if 
needed.  Range of motion at the knee as tolerated. No strenuous 
exercise or heavy lifting until follow up appointment.
Physical Therapy:
WBAT RLE
No range of motion restrictions
Wean assistive device as able
Mobilize frequently

Treatments Frequency:
remove aquacel ___
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
staple removal and replace with steri-strips (at follow up 
visit)
 
Followup Instructions:
___